US07244730B2
(Step 9) tert-Butyl N-{2-cyano-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate
After dissolving the tert-butyl N-{2-bromo-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate (2.71 g) in propionitrile (11 ml), sodium cyanide (420 mg), copper iodide (163 mg) and tetrakis(triphenylphosphine)palladium (495 mg) were added under a nitrogen atmosphere and the mixture was heated to reflux for one hour. Additional copper iodide (170 mg) and tetrakis(triphenylphosphine)palladium (500 mg) were added and heating to reflux was continued for 4 hours. Ethyl acetate and water were added to the reaction mixture and the resultant mixture was filtered with celite. The filtrate was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate and, after filtering off the insoluble portion, was concentrated. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (788 mg) as a white solid.

reactant | tert-butyl N-{2-bromo-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate | 2.71 g | BrC1=C(CN(C(OC(C)(C)C)=O)CC(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C(=C1)C(=O)NC)OCC | C32H45BrN2O6
reactant | sodium cyanide | 420 mg | [C-]#N.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | propionitrile | 11 ml | C(CC)#N | C3H5N
catalyst | copper iodide | 163 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 495 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 170 mg | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium | 500 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl N-{2-cyano-5-ethoxy-4-[(methylamino)carbonyl]benzyl}-N-{2-[3,5-di(tert-butyl)-4-hydroxyphenyl]-2-oxoethyl}carbamate | 788 mg | C(#N)C1=C(CN(C(OC(C)(C)C)=O)CC(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C=C(C(=C1)C(=O)NC)OCC | C33H45N3O6
